Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
stab wound to chest

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ F s/p self-inflicted stab wound to the L chest. The patient 
had a suicide pact with her husband, they both took a large 
amount of vicodin prior to the suicidal attemp. They were found 
by their son and brought to ___ which is were her husband 
currently is admitted. A CT of her chest was done at ___ and 
revealed a small pnx and pneumomediastinum and a small 
pericardial effusion. The patient was then transferred to ___ 
for further care.
 
Past Medical History:
PMHx: HLD, depression, Cervical ca s/p hysterectomy 
 
PSHx: hysterectomy  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission Physical Exam:
 
O(2)Sat: 98 Normal
 
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds, NO murmus
Small subxiphoid wound. No bubbles
Abdominal: Soft, Nontender, Nondistended
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood
___: No petechiae

 
Pertinent Results:
___ 02:56PM   WBC-14.5* RBC-3.45* HGB-11.0* HCT-33.0* 
MCV-96 MCH-31.8 MCHC-33.4 RDW-12.8

IMAGING: 
CT chest OSH ___: Pneumomediastinum. Small left pneumothorax 
and area of lung contusion within the inferior segment of the 
lingula. Small pericardial effusion with no air in the 
pericardial sac. No involvement of the major vascular structures 
of the mediastinum.

ECHO:
The estimated right atrial pressure is ___ mmHg. The interatrial 
septum is bowed toward the left atrium. Left ventricular wall 
thicknesses and cavity size are normal. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Suboptimal image quality. No definite pericardial 
effusion identified.  
 
Brief Hospital Course:
Mrs. ___ was admitted to the TSICU. Echo was performed at 
bedside by cardiology and no significant pericardial effusion 
visualized.  Psychiatry initiated a ___ and she remained 
hemodynamically stable was transferred to the floor with a 1:1 
sitter in place.   

Patient tolerated a regular diet with good urine output and pain 
control on the floor.  Vital signs and HCT were stable.  
Tertiary survey performed without additional injuries noted and 
repeat ECHO did not show any pericardial effusion with small 
amount or air visualized.  Small anterior epigastric wound is 
stable without drainage. 

On ___, she was noted to have tachycardia in the 140's on 
telemetry. An ECG was obtained and showed new atrial 
fibrillation. Electrolytes, cardiac enzymes, TSH levels were 
sent. A chest xray was obtained. She was given IV Lopressor. 
Cardiology was consulted and ultimately felt that this new a-fib 
was likely not acute coronary syndrome but rather pericarditis. 
Their recommendations were to start ASA 325 mg po daily and 
metoprolol 25 mg bid and she was also placed on telemetry. She 
did eventually revert back to normal sinus rhythm. Ibuprofen was 
also started to help with inflammation.
 
Medications on Admission:
simvastatin, fluoxetine (started 3 weeks ago) (does not remeber 
doses)

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
2. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
3. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
7. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
8. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
9. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.  
10. quetiapine 25 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
11. quetiapine 25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for anxiety.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Stab wound to chest
Atrial fibrillation - new onset
Pericarditis

 
Discharge Condition:
Mental Status: 
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hopsital after a self inflicted stab 
woundto your chest. You were monitored closely inthe ICU and 
once stable transferred to the surgical ward for ongoing 
monitoring. You were also seen by the cardiologist for an 
irregular heart rhythm called atrial fibrillation - it was felt 
this was likely due to pericarditis which is an inflammation of 
the outside lining of the heart. You are being treated with an 
aspirin, a beta blocker called metoprolol and ibuprofen to help 
with the inflammation.

You were also seen by Psychiatry during your stay and being 
recommended for inpatient mental health stay for ongoing 
evalution and treamtent.
 
Followup Instructions:
___